US08097617B2
Step 15.6: 2-Methyl-propane-2-sulfinic acid 1-[6-(2,4-dichloro-phenyl)-imidazo-[1,2-a]pyridin-7-yl]-meth-(E)-ylideneamide.
To a solution of 6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbaldehyde (104 mg, 0.36 mmol) in DCM (5 mL) were successively added 2-methyl-2-propane-sulfinamide (47.6 mg, 0.39 mmol) and titanium tetraisopropoxyde (0.21 mL, 0.72 mmol) at RT, then the mixture was heated at 45° C. and stirred for 14 h. The reaction mixture was cooled to RT, quenched by the successive addition of MeOH (2 mL) and several drops of a saturated NaHCO3 solution in water. The resulting precipitate was filtered through a Na2SO4 pad, the solid was washed with AcOEt and the filtrate was evaporated to dryness. The remaining residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, [hexane/DCM 1:1]/TBME 95:5→100% TBME) to yield the title compound (101 mg, 0.26 mmol, 72%). MS: 394 [M+1]+; HPLC: AtRet=1.58; TLC: RF 0.33 (hexane/DCM/TBME 1:1:6).

reactant | 6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbaldehyde | 0.36 mmol, 104 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C=CN2)C=O | C14H8Cl2N2O
reactant | 2-methyl-2-propane-sulfinamide | 0.39 mmol, 47.6 mg | CC(C)(C)S(=O)N | C4H11NOS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium | [Ti] | Ti
product | 2-Methyl-propane-2-sulfinic acid 1-[6-(2,4-dichloro-phenyl)-imidazo-[1,2-a]pyridin-7-yl]-meth-(E)-ylideneamide | 0.26 mmol, 101 mg, 72% | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C=CN2)\C=N\S(=O)C(C)(C)C | C18H17Cl2N3OS
